US04588723
2-Diethylaminomethyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole
18.6 g (0.1 mol) of 2-amino-5-diethylaminomethyl-1,3,4-thiadiazole and 19.9 g of ω-bromo-acetophenone in 70 mL of dimethylformamide are warmed at 150° C. for 3 hours. 150 ml of water are added to the cooled reaction mixture and the mixture is neutralised with 20% strength sodium hydroxide solution. The precipitate is filtered off with suction. After recrystallisation from acetonitrile, 11.5 g (40.2%) of melting point 138° C. remain.

reactant | 2-amino-5-diethylaminomethyl-1,3,4-thiadiazole | 0.1 mol, 18.6 g | NC=1SC(=NN1)CN(CC)CC | C7H14N4S
reactant | ω-bromo-acetophenone | 19.9 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | water | 150 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dimethylformamide | 70 mL | CN(C=O)C | C3H7NO
product | 2-Diethylaminomethyl-6-phenyl-imidazo[2,1-b]-1,3,4-thiadiazole | C(C)N(CC)CC1=NN2C(S1)=NC(=C2)C2=CC=CC=C2 | C15H18N4S
